US04616015
β-Chloropropionyl chloride (1.25 ml) was added dropwise to a stirred solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.04 g) and triethylamine (1.53 ml) in N,N-dimethylformamide (DMF) (10.5 ml) under ice cooling and the stirring was continued for 30 minutes. The solution was evaporated in vacuo and the residue as triturated with water under ice-cooling. The precipitates were collected by filtration, washed with water and dried to give 6-[4-(β-chloropropionylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.55 g).

reactant | β-Chloropropionyl chloride | 1.25 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.04 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | triethylamine | 1.53 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
product | 6-[4-(β-chloropropionylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.55 g | ClCCC(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C13H15ClN4O2
